US07838087B2
16.03 g of crude of β-(4-(4-propylcyclohexyl)cyclohexyl)-2-trifluoromethyl-3-fluoro-4-ethoxy-5-trimethylsilyl styrene was dissolved in 35 mL of THF, to which 23.4 mL of tetrabutyl ammonium fluoride/THF solution (1 mol/L) was dropped and stirred for 2 hours. The reaction solution was poured into 100 ml of water and extracted with 200 ml of toluene. The organic layer was washed with 100 ml of an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (eluent: heptane/toluene=8/2) and further recrystallized twice from a heptane/ethanol mixed solvent to obtain 7.89 g of β-(4-(4-propylcyclohexyl)cyclohexyl)-2-trifluoromethyl-3-fluoro-4-ethoxy styrene. The compound showed a liquid crystal phase and the transition points were as shown below.

reactant | β-(4-(4-propylcyclohexyl)cyclohexyl)-2-trifluoromethyl-3-fluoro-4-ethoxy-5-trimethylsilyl styrene | C(CC)C1CCC(CC1)C1CCC(CC1)C=CC1=C(C(=C(C(=C1)[Si](C)(C)C)OCC)F)C(F)(F)F | C29H44F4OSi
reactant | water | 100 ml | O | H2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | tetrabutyl ammonium fluoride THF | 1 mol/L, 23.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
product | β-(4-(4-propylcyclohexyl)cyclohexyl)-2-trifluoromethyl-3-fluoro-4-ethoxy styrene | 7.89 g | C(CC)C1CCC(CC1)C1CCC(CC1)C=CC1=C(C(=C(C=C1)OCC)F)C(F)(F)F | C26H36F4O
